US09085575B2
0.5 ml of hydrazine is added to a solution of 0.21 g (0.46 mmol) of ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate dissolved in 2 ml of ethanol. The reaction medium is carried at 90° C. for 5 hours. The precipitate obtained is filtered and then recrystallized in a methanol/diethyl ether mixture to yield 0.20 g (74%) of ethyl 3-amino-6-(4-methoxyphenyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate in the form of a yellow solid.

reactant | hydrazine | 0.5 ml | NN | H4N2
reactant | ethyl 5-cyano-2-(4-methoxyphenyl)-4-(2-nitrophenyl)-6-thioxo-1,6-dihydropyridine-3-carboxylate | 0.46 mmol, 0.21 g | C(#N)C1=C(C(=C(NC1=S)C1=CC=C(C=C1)OC)C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-] | C22H17N3O5S
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | ethyl 3-amino-6-(4-methoxyphenyl)-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 0.20 g, 74% | NC1=NNC2=NC(=C(C(=C21)C2=C(C=CC=C2)[N+](=O)[O-])C(=O)OCC)C2=CC=C(C=C2)OC | C22H19N5O5
